US05700809
3-(4-Ethyl-1,2,3,6-tetrahydropyridin-1-yl)-methyl-1H-pyrrolo[2,3-b]pyridine
A solution of 1-benzyl-4-ethyl-1,2,3,6-tetrahydropyridine (1.92 g, 9.6 mmol) in anhydrous dichloromethane (50 ml) was cooled to 0° C. and treated with a solution of 1-chloroethylchloroformate (1.34 ml, 12.4 mmol) in anhydrous dichloromethane (10 ml). After stirring at room temperature for one hour, the solvent was evaporated and the residue redissolved in methanol (50 ml). This solution was heated at reflux for one hour. The solvent was evaporated and the residue partitioned between dichloromethane and saturated aqueous potassium carbonate solution. The organic phase was separated, dried (MgSO4) and evaporated in vacuo to afford the crude product (320 mg, 30%) as a colourless oil. A solution of the crude tetrahydropyridine (320 mg, 2.9 mmol) and 3-dimethylaminomethyl-1H-pyrrolo[2,3-b]pyridine (504 mg, 2.9 mmol) in toluene (10 ml) was stirred at reflux for 16 hours. The solvent was evaporated and the residue chromatographed with 3% methanol in dichloromethane as eluant to afford the title compound (300 mg, 43%) as a colourless solid, m.p. 88°-90° C.; (Found: C, 74.03; H, 7.94; N, 16.97. C15H19N3.0.125H2O requires C, 73.96; H, 7.97; N, 17.25%); δH (DMSO-d6) 0.99 (3H, t, J 7.5 Hz, CH2CH3), 1.97 (2H, q, J 7.5 Hz, CH2CH3), 2.06-2.12 (2H, m, tetrahydropyridinyl CH2), 2.61 (2H, t, J 5.8 Hz, tetrahydropyridinyl CH2), 3.02-3.08 (2H, m, tetrahydropyridinyl CH2), 3.78 (2H, s, NCH2Ar), 5.34-5.40 (1H, m, tetrahydropyridinyl 5-H), 7.08 (1H, dd, J 7.9, 4.8 Hz, 5-H), 7.29 (1H, m, 2-H), 8.06-8.04 (1H, m, 4-H), 8.28-8.32 (1H, m, 6-H), 9.28 (1H, br s, NH). m/z (CI+, NH3) 242 (M+1)+.

reactant | 1-benzyl-4-ethyl-1,2,3,6-tetrahydropyridine | 9.6 mmol, 1.92 g | C(C1=CC=CC=C1)N1CCC(=CC1)CC | C14H19N
reactant | 1-chloroethylchloroformate | 12.4 mmol, 1.34 ml | ClC(C)OC(=O)Cl | C3H4Cl2O2
reactant | tetrahydropyridine | 2.9 mmol, 320 mg | N1CCCC=C1 | C5H9N
reactant | 3-dimethylaminomethyl-1H-pyrrolo[2,3-b]pyridine | 2.9 mmol, 504 mg | CN(C)CC1=CNC2=NC=CC=C21 | C10H13N3
solvent | dichloromethane | 50 ml | ClCCl | CH2Cl2
solvent | dichloromethane | 10 ml | ClCCl | CH2Cl2
solvent | toluene | 10 ml | C1(=CC=CC=C1)C | C7H8
product | 3-(4-Ethyl-1,2,3,6-tetrahydropyridin-1-yl)-methyl-1H-pyrrolo[2,3-b]pyridine | 300 mg, 43% | C(C)C=1CCN(CC1)C1=CN(C2=NC=CC=C21)C | C15H19N3
